US04277470
(b) Methyl β-(2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-en-2-yl)-propionate
Variant B: 0.18 mole of 2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-ene, 0.18 mole of methyl acrylate and 3.8 ml of Triton B in 50 ml of tert.-butanol and stirred for 24 hours, a further 0.18 mole of methyl acrylate and 70 mlof dioxan are then added and the mixture is heated to the reflux temperature for 24 hours. After cooling, the reaction mixture crystallizes. A little ethanol is added, the mixture is neutralized with 2N hydrochloric acid and the crystal sludge is filtered. Recrystallization of the crystals from isopropanol with the addition of animal charcoal gives crystals of melting point 127°-131° C.

reactant | 2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-ene | 0.18 mole | [N+](=O)([O-])C1C2C=CC(C1C1=CC=CC=C1)CC2 | C14H15NO2
reactant | methyl acrylate | 0.18 mole | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 0.18 mole | C(C=C)(=O)OC | C4H6O2
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | tert.-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | Methyl β-(2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-en-2-yl)-propionate | [N+](=O)([O-])C1(C2C=CC(C1C1=CC=CC=C1)CC2)CCC(=O)OC | C18H21NO4
